* Ulysses link as built -- TX bridge, 16 nF, coil, 16 nF, RX bridge
* coil: 24 turns, L = 220.29 uH, k = 0.520, R_ac = 675.6 mOhm
* series-resonant at 85.0 kHz, driven at 85.0 kHz
.param FSW=85000.0
.param TP={1/FSW}

VBUS bus 0 DC 400.0

* --- TX full bridge, two LMG2640 half bridges (RDS(on) at 125 C)
SAH bus sw   ga 0 SWMOD
SAL sw  0    gb 0 SWMOD
SBH bus sw2  gb 0 SWMOD
SBL sw2 0    ga 0 SWMOD
* Body diodes / reverse conduction.  Without them the 1 ns gap between the
* two gate signals leaves the tank current with nowhere to go, ROFF = 1e9
* develops a numerically explosive voltage, and the deck pumps energy in.
DAH sw  bus BODY
DAL 0   sw  BODY
DBH sw2 bus BODY
DBL 0   sw2 BODY
.model BODY D(IS=1e-12 RS=0.05 N=1.2 CJO=100p TT=1n BV=800)
VGA ga 0 PULSE(0 5 0 1n 1n {TP/2-4n} {TP})
VGB gb 0 PULSE(0 5 {TP/2} 1n 1n {TP/2-4n} {TP})
.model SWMOD SW(RON=0.2 ROFF=1e9 VT=2.5 VH=0.5)

* --- TX tank: 3 x 100 nF in the leg-A output, coil, then RX tank
CTX  sw  txa 1.59e-08
LTX  txa txb 0.00022028797718619082
RTX  txb 0   0.6756317356084625
LRX  rxa rxb 0.00022028797718619082
RRX  rxb rxn 0.6756317356084625
K1 LTX LRX 0.5200245753383684
CRX  rxa prt 1.59e-08

* --- RX bridge: 12 x MURSD860A, 3 in parallel per arm
DR1 prt vout DMOD
DR2 0d  prt DMOD
DR3 rxn vout DMOD
DR4 0d  rxn DMOD
VSENSE 0d 0 DC 0
.model DMOD D(IS=1e-8 RS=0.0625 N=2 CJO=100p TT=25n BV=600)

COUT vout 0 7.5e-06 IC=0
RLOAD vout 0 53.33

.ic V(vout)=0

.control
tran 2.941e-08 0.00470588 0 uic
let pin  = -v(bus)*i(vbus)
let pout = v(vout)*v(vout)/53.33
let vctx = v(sw)-v(txa)
meas tran p_in   avg pin  from=0.00423529 to=0.00470588
meas tran p_out  avg pout from=0.00423529 to=0.00470588
meas tran i_tank rms i(ltx) from=0.00423529 to=0.00470588
meas tran i_pk   max i(ltx) from=0.00423529 to=0.00470588
meas tran v_out  avg v(vout) from=0.00423529 to=0.00470588
meas tran v_ctx  rms vctx from=0.00423529 to=0.00470588
print p_in p_out i_tank i_pk v_out v_ctx
.endc
.end
